US03947582
To a solution of 13.08 gm. of o-aminophenol in 150 cc. of dry pyridine which is cooled in ice water is added a solution of 4-ethyl-2-fluorobenzoyl chloride (prepared from 20.0 gm. of acid and thionyl chloride) in 30 cc. of dry benzene. The mixture is stirred at room temperature overnight and then concentrated in vacuo. The residue is treated with water and the precipitate collected by filtration to give crude 4-ethyl-2-fluoro-2'-hydroxybenzanilide which was characterized by infra red spectra then used in the following step.

reactant | o-aminophenol | NC1=C(C=CC=C1)O | C6H7NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4-ethyl-2-fluorobenzoyl chloride | 20.0 gm | C(C)C1=CC(=C(C(=O)Cl)C=C1)F | C9H8ClFO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-ethyl-2-fluoro-2'-hydroxybenzanilide | C(C)C1=CC(=C(C(=O)NC2=C(C=CC=C2)O)C=C1)F | C15H14FNO2
